US05665768
[E] N-[3-[5-(4-Fluorophenylthio)-2-furyl]-2-cyclopenten-1-yl]-N-hydroxylamine
To a stirred solution of 3-[5-(4-fluorophenylthio)-2-furyl]-2-cyclopentenone oxime (6 g; 20.8 mM) in acetic acid (40 ml) was added NaBH3CN (1.57 g; 24.9 mM) at room temperature. After stirring for 2.5 hr, acetic acid was removed. The residue was dissolved in ethyl acetate (150 ml), and the whole was washed with saturated aqueous NaHCO3 (80 ml). The aqueous layer was extracted with ethyl acetate (80 ml), and the combined organic layer washed with water (80 ml), brine (80 ml), dried over MgSO4, and concentrated in vacuo. Chromatographic purification of the residue during with CH2Cl2 -EtOH (50: 1) provided 1.35 g (yield 22%) of the subtitle compound as a yellow oil.

reactant | 3-[5-(4-fluorophenylthio)-2-furyl]-2-cyclopentenone oxime | 20.8 mM, 6 g | FC1=CC=C(C=C1)SC1=CC=C(O1)C1=CC(CC1)=NO | C15H12FNO2S
reactant | NaBH3CN | 24.9 mM, 1.57 g | [BH3-]C#N.[Na+]
solvent | acetic acid | 40 ml | C(C)(=O)O | C2H4O2
product | N-[3-[5-(4-Fluorophenylthio)-2-furyl]-2-cyclopenten-1-yl]-N-hydroxylamine | 1.35 g, yield 22% | FC1=CC=C(C=C1)SC1=CC=C(O1)C1=CC(CC1)NO | C15H14FNO2S
